US07569550B2
d) Ethyl 9-(3-tert-butoxycarbonylamino-prop-1-ynyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate
A yellow suspension of palladium acetate (73 mg, 0.32 mmol) and triphenylphosphine (191 mg, 0.72 mmol) in dry tetrahydrofuran (6 mL) under argon was cooled to 0° C. A solution of n-butyllithium (2.5M in hexanes, 284 uL) was added dropwise and after 15 minutes the dark green suspension is warmed to room temperature for 15 minutes. This suspension is then cannulated under argon into a white suspension of ethyl 9-bromo-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate (337 mg, 1 mmol), copper iodide (84 mg, 0.44 mmol) and t-butoxycarbonylpropargylamine (198 mg, 1.28 mmol) in diethylamine (6 mL). The brown suspension is warmed to 45° C. for 2 hours then filtered off and preabsorbed on silica gel. Chromatography on silica gel eluting with 0-5% (9:1 MeOH/20 M NH3) in dichloromethane provided the title compound as a brown oil. ESMS m/z 411 (MH+). 1H NMR (CDCl3) δ 8.23(s, 1H), 8.12 (d, 1H), 7.29 (d, 1H), 5.1 (m, 1H), 4.35 (q, 2H), 4.15 (m, 2×2H), 2.97 (t, 2H), 2.19 (tt, 2H), 1.49 (s, 9H), 1.38 (t, 3H).

reactant | triphenylphosphine | 0.72 mmol, 191 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butyllithium | 2.5M, 284 uL | C(CCC)[Li]
reactant | ethyl 9-bromo-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate | 1 mmol, 337 mg | BrC=1C=C2C(C(=CN3C2=C(C1)CCC3)C(=O)OCC)=O | C15H14BrNO3
reactant | t-butoxycarbonylpropargylamine | 1.28 mmol, 198 mg | C(C)(C)(C)OC(=O)NCC#C | C8H13NO2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | diethylamine | 6 mL | C(C)NCC | C4H11N
catalyst | palladium acetate | 0.32 mmol, 73 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper iodide | 0.44 mmol, 84 mg | [Cu](I)I
product | Ethyl 9-(3-tert-butoxycarbonylamino-prop-1-ynyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate | C(C)(C)(C)OC(=O)NCC#CC=1C=C2C(C(=CN3C2=C(C1)CCC3)C(=O)OCC)=O | C23H26N2O5
